US04501747
A mixture of 5.5 g of 2-(2-guanidinothiazol-4-ylmethylthio)ethylamine dihydrochloride, 3.65 g of triethylamine and 3.7 g of 4-nitrophenyl 3-benzenesulfonamidobenzoate (m.p. 175°-178° C., prepared from 3-benzenesulfonamidobenzoic acid and 4-nitrophenol in methylene chloride in the presence of dicyclohexylcarbodiimide) is stirred at the temperature of 40° C. for 90 minutes, then it is evaporated under reduced pressure to dryness. The residue is taken up with 150 ml of ethyl acetate and washed twice with 10 ml of water. The solution is dried on anhydrous sodium sulfate, evaporated and the residue is chromatographied on silica with a chloroform:ethanol 4:1 mixture. Thus, 3.8 g of 3-benzenesulfonamido-N-[2-(2-guanidinothiazol-4-ylmethylthio)ethyl]benzamide are obtained as an oil which is dissolved in absolute ethanol and treated with fumaric acid in absolute ethanol. Thus, 3.6 g of crude product are obtained, which, after crystallization from 40 ml of 95% ethanol, gives 2.4 g of neutral fumarate of 3-benzenesulfonamido-N-[2-(2-guanidinothiazol-4-ylmethylthio)ethyl]benzamide, SR 57963 A, C20H22N6O3S4.1/2C4H4O4 ; m.p. 139°-141° C.

reactant | 2-(2-guanidinothiazol-4-ylmethylthio)ethylamine dihydrochloride | 5.5 g | Cl.Cl.N(C(=N)N)C=1SC=C(N1)CSCCN
reactant | 4-nitrophenyl 3-benzenesulfonamidobenzoate | 3.7 g | C1(=CC=CC=C1)S(=O)(=O)NC=1C=C(C(=O)OC2=CC=C(C=C2)[N+](=O)[O-])C=CC1 | C19H14N2O6S
reactant | 3-benzenesulfonamidobenzoic acid | C1(=CC=CC=C1)S(=O)(=O)NC=1C=C(C(=O)O)C=CC1 | C13H11NO4S
reactant | 4-nitrophenol | [N+](=O)([O-])C1=CC=C(C=C1)O | C6H5NO3
reactant | dicyclohexylcarbodiimide | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | triethylamine | 3.65 g | C(C)N(CC)CC | C6H15N
product | 3-benzenesulfonamido-N-[2-(2-guanidinothiazol-4-ylmethylthio)ethyl]benzamide | 3.8 g | C1(=CC=CC=C1)S(=O)(=O)NC=1C=C(C(=O)NCCSCC=2N=C(SC2)NC(=N)N)C=CC1 | C20H22N6O3S3
